US07550459B2
4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-5,8-difluoro-4H-benzo[1,4]oxazin-3-one (AC00262869)
4-Cyclopropylmethoxypiperidine (0.085 g, 0.55 mmol), 4-(3-chloropropyl)-5,8-difluoro-4H-benzo[1,4]oxazin-3-one (0.146 g, 0.56 mmol), K2CO3 (0.152 g, 1.1 mmol), and KI (0.164 g, 1.1 mmol) were mixed according to GP3. Purified by prep TLC (SiO2; Heptanes/EtOAc 1:1) to give the title compound (0.078 g, 37%). 1H NMR (CDCl3) d 6.82-6.69 (m, 2H), 4.57 (s, 2H), 4.07-4.03 (m, 2H), 3.31-3.22 (m, 3H), 2.72-2.64 (m, 2H), 2.32 (t, J=7.2 Hz, 2H), 2.02 (t, J=10.4 Hz, 2H), 1.88-1.76 (m, 4H), 1.59-1.48 (m, 2H), 1.07-0.95 (m, 2H), 0.53-0.47 (m, 2H), 0.19-0.14 (m, 2H); 13C NMR (CDCl3) d 164.6, 148.3 (dd, J=243.3 Hz, J=2.7 Hz), 147.7 (dd, J=243.9, J=2.8 Hz), 136.6 (dd, J=11.2Hz, J=4.9Hz), 120.0 (d, J=11.1 Hz), 111.2 (dd, J=20.4Hz, J=9.6 Hz), 110.3 (dd, J=24.8 Hz, J=7.7 Hz), 75.0, 72.6, 68.6, 55.6, 51.5, 42.7 (d, J=10.8 Hz), 31.5, 25.7 (d, J=2.7 Hz), 11.1, 3.2.

reactant | 4-Cyclopropylmethoxypiperidine | 0.55 mmol, 0.085 g | C1(CC1)COC1CCNCC1 | C9H17NO
reactant | 4-(3-chloropropyl)-5,8-difluoro-4H-benzo[1,4]oxazin-3-one | 0.56 mmol, 0.146 g | ClCCCN1C(COC2=C1C(=CC=C2F)F)=O | C11H10ClF2NO2
reactant | K2CO3 | 1.1 mmol, 0.152 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[3-(4-Cyclopropylmethoxypiperidin-1-yl)propyl]-5,8-difluoro-4H-benzo[1,4]oxazin-3-one | 0.078 g, 37% | C1(CC1)COC1CCN(CC1)CCCN1C(COC2=C1C(=CC=C2F)F)=O | C20H26F2N2O3
